US04906634
3,4-Dimethoxy-N-methylbenzeneethanamine
Dissolve 16.5 g (57 mmol) of N-[2-(3,4-dimethoxyphenyl)ethyl]-N-methyltrifluoroacetamide in a solution of 100 mL of 4N sodium hydroxide and 100 mL of methanol. Heat mixture at 60° C. for 1 h. After 1 h, cool reaction mixture to room temperature and extract with 2×200 mL of methylene chloride. Wash the combined organic extracts with saturated sodium chloride solution and dry over anhydrous sodium sulfate. Filter the drying agent and remove the solvent in vacuo to provide the crude title compound. Distill this material in vacuo to provide the title compound.

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-N-methyltrifluoroacetamide | 57 mmol, 16.5 g | COC=1C=C(C=CC1OC)CCN(C(C(F)(F)F)=O)C | C13H16F3NO3
solvent | sodium hydroxide | 4N, 100 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 3,4-Dimethoxy-N-methylbenzeneethanamine | COC=1C=C(C=CC1OC)CCNC | C11H17NO2
